US05128356
N-(2-Methoxy-6-nitrophenyl)valeroamide
To a mixture of 2-methoxy-6-nitroaniline (5.9 g) in valeric anhydride (14 g) was added a catalytic amount of conc. sulfuric acid, which was stirred for 1.5 hour at 130°-140° C. To the reaction mixture was added water, which was made basic with 6N NaOH. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and dried. The solvent was distilled off. The residue was purified by column chromatography on silica gel. Crude crystals thus obtained were recrystallized from ethyl acetate-hexane to give colorless crystals (3.2 g, 36%), m.p. 113°-114° C.

reactant | 2-methoxy-6-nitroaniline | 5.9 g | COC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | NaOH | 6N | [OH-].[Na+]
solvent | valeric anhydride | 14 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
product | N-(2-Methoxy-6-nitrophenyl)valeroamide | 3.2 g, 36% | COC1=C(C(=CC=C1)[N+](=O)[O-])NC(CCCC)=O | C12H16N2O4
